US09062033B2
(S)-tert-butyl 6-((((benzyloxy)carbonyl)amino)methyl)-5-azaspiro-[2.4]heptane-5-carboxylate (D49)
To a solution of (S)-tert-butyl 6-(aminomethyl)-5-azaspiro[2.4]heptane-5-carboxylate (prepared according to WO2011006960; 136 mg, 0.6 mmol) in acetonitrile (1.5 ml), DIPEA (156 μl, 0.9 mmol) and benzylchloroformate (100 μl, 0.7 mmol) were added. After 1 h at RT the reaction was diluted with DCM (20 ml) and washed with an aqueous satd. solution of NH4Cl; organics were evaporated to obtain an oil, which was purified on silica gel column (Cyclohexane/AcOEt from 9/1 to 7/3). Yield 168 mg, transparent oil.

reactant | (S)-tert-butyl 6-(aminomethyl)-5-azaspiro[2.4]heptane-5-carboxylate | 0.6 mmol, 136 mg | NC[C@H]1N(CC2(CC2)C1)C(=O)OC(C)(C)C | C12H22N2O2
reactant | DIPEA | 0.9 mmol, 156 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | benzylchloroformate | 0.7 mmol, 100 μl | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 6-((((benzyloxy)carbonyl)amino)methyl)-5-azaspiro-[2.4]heptane-5-carboxylate | C(C1=CC=CC=C1)OC(=O)NC[C@H]1N(CC2(CC2)C1)C(=O)OC(C)(C)C | C20H28N2O4
